US04267190
C. 1-Chloro-3-(4-fluorophenyl)-2-methyl-2-propene
To a solution of 53.6 g (0.32 mole) of 3-(4-fluorophenyl)-2-methyl-2-propen-1-ol in 100 ml methylene chloride was added dropwise a solution of 57.1 g (0.48 mole) of thionyl chloride in 100 ml methylene chloride. The reaction mixture was stirred at room temperature for 2 hours, then concentrated by rotary evaporation. The product was checked by NMR, then used crude in the reaction with ammonia.

reactant | 3-(4-fluorophenyl)-2-methyl-2-propen-1-ol | 0.32 mole, 53.6 g | FC1=CC=C(C=C1)C=C(CO)C | C10H11FO
reactant | thionyl chloride | 0.48 mole, 57.1 g | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Chloro-3-(4-fluorophenyl)-2-methyl-2-propene | ClCC(=CC1=CC=C(C=C1)F)C | C10H10ClF
